US09145380B2
2-Fluoro-6-[[(E)-2-(4-phenylphenyl)ethenyl]sulfonylamino]benzenesulfonamide
2-Amino-6-fluoro-benzenesulfonamide (38 mg, 200 μmol) and (E)-2-(4-phenylphenyl)ethenesulfonyl chloride (56 mg, 200 μmol) were dissolved in pyridine (1.5 mL) and the reaction mixture was shaken for 12 h. The solvent was removed in vacuum and the residues were purified by HPLC to give the product (16.6 mg, 19%).

reactant | 2-Amino-6-fluoro-benzenesulfonamide | 200 μmol, 38 mg | NC1=C(C(=CC=C1)F)S(=O)(=O)N | C6H7FN2O2S
reactant | (E)-2-(4-phenylphenyl)ethenesulfonyl chloride | 200 μmol, 56 mg | C1(=CC=CC=C1)C1=CC=C(C=C1)/C=C/S(=O)(=O)Cl | C14H11ClO2S
solvent | pyridine | 1.5 mL | N1=CC=CC=C1 | C5H5N
product | 2-Fluoro-6-[[(E)-2-(4-phenylphenyl)ethenyl]sulfonylamino]benzenesulfonamide | 16.6 mg, 19% | FC1=C(C(=CC=C1)NS(=O)(=O)\C=C\C1=CC=C(C=C1)C1=CC=CC=C1)S(=O)(=O)N | C20H17FN2O4S2
